US04431672
This example was carried out in the same manner as that in Example 1, except that 69.7 g (0.2 mol) of 1-(2-hydroxyethyl)-2-oleyl-2-imidazoline synthesized from oleic acid (AV 200, average molecular weight 280.5) and aminoethylethanolamine was used. 1-(2-hydroxyethyl)-2-(α-ethoxycarbonylethyl-oleyl)-2-imidazoline was obtained (yield 93.8%).

reactant | 1-(2-hydroxyethyl)-2-oleyl-2-imidazoline | 0.2 mol, 69.7 g | OCCN1C(=NCC1)CCCCCCCC\C=C/CCCCCCCC | C23H44N2O
reactant | oleic acid | C(CCCCCCC\C=C/CCCCCCCC)(=O)O | C18H34O2
reactant | aminoethylethanolamine | NCCC(O)CN | C4H12N2O
product | 1-(2-hydroxyethyl)-2-(α-ethoxycarbonylethyl-oleyl)-2-imidazoline | yield 93.8% | OCCN1C(=NCC1)CCCCCCCC\C=C/CCCCCCCCC(C)C(=O)OCC | C28H52N2O3
